US09382188B2
C) 4′-(benzyloxy)-3′-(4,4-dimethylpent-1-en-1-yl)-2-fluoro-5-methoxy-1,1′-biphenyl
To a solution of 4-(benzyloxy)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-3-carbaldehyde (1.40 g) in THF (10 mL) was added 60% sodium hydride (240 mg) at room temperature, and the mixture was stirred for 30 min. To the reaction mixture was added dropwise a solution of (3,3-dimethylbutyl) (triphenyl)phosphonium methanesulfonate (1.70 g) in THF (10 mL), and the mixture was stirred at 50° C. for 1 hr. 1N Hydrochloric acid was added and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give a crude product. This compound was used for the net step without further purification.

reactant | 4-(benzyloxy)-2′-fluoro-5′-methoxy-[1,1′-biphenyl]-3-carbaldehyde | 1.40 g | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=C(C=CC(=C1)OC)F)C=O | C21H17FO3
reactant | sodium hydride | 240 mg | [H-].[Na+]
reactant | (3,3-dimethylbutyl) (triphenyl)phosphonium methanesulfonate | 1.70 g | CS(=O)(=O)[O-].CC(CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)(C)C
reactant | Hydrochloric acid | 1N | Cl | ClH
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | 4′-(benzyloxy)-3′-(4,4-dimethylpent-1-en-1-yl)-2-fluoro-5-methoxy-1,1′-biphenyl | C(C1=CC=CC=C1)OC1=C(C=C(C=C1)C1=C(C=CC(=C1)OC)F)C=CCC(C)(C)C | C27H29FO2
